US06855710B2
(Z)-3-{1-[4-(N-dimethylaminocarbonylmethyl-N-phenylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Examples 1 and 187 from (Z)-1-acetyl-3-[1-(4-phenylsulphonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone, bromoacetic acid-N,N-dimethylamide and potassium tert.butoxide in DMSO and subsequent treatment with sodium hydroxide solution in methanol.

reactant | (Z)-1-acetyl-3-[1-(4-phenylsulphonylamino-phenylamino)-1-phenyl-methylidene]-2-indolinone | C(C)(=O)N1C(\C(\C2=CC=CC=C12)=C(\C1=CC=CC=C1)/NC1=CC=C(C=C1)NS(=O)(=O)C1=CC=CC=C1)=O | C29H23N3O4S
reactant | bromoacetic acid-N,N-dimethylamide | CN(C(CBr)=O)C | C4H8BrNO
reactant | potassium tert.butoxide | CC(C)([O-])C.[K+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | DMSO | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | (Z)-3-{1-[4-(N-dimethylaminocarbonylmethyl-N-phenylsulphonyl-amino)-phenylamino]-1-phenyl-methylidene}-2-indolinone | CN(C(=O)CN(S(=O)(=O)C1=CC=CC=C1)C1=CC=C(C=C1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O)C | C31H28N4O4S
